### PR TITLE
added a few lemmas about sup

### PR DESCRIPTION
**Pull request by holgerthies**
##### Motivation for this change

Added a few Lemmas about sup to reals.v.
`sup_ge0` is a specialization of `ub_le_sup` exploiting that `sup` is set to 0 if there is no supremum,
but it might be useful to shorten some proofs.

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

**Comment by mkerjean** [comment]
Great, thank you for this pull request, it's very useful! I think the proofs can still be shortened a bit,  I'll suggest changes as soon as possible.

File: reals/reals.v [hunk 1]
```diff
@@ -632,7 +632,78 @@ move=> /inf_adherent/(_ hs)[_ [x ->]]; rewrite addrC subrK => ltFxl.
...
+
+Lemma has_sup_wpZl (A : set R) (a : R) : 0 <= a ->  has_sup A -> has_sup [set a * x  | x in A ]. 
+Proof. 
+move => a0 [[x Ax] [b ub]].
+split;first by exists (a*x); exists x.
+exists (a * b) => _ [y Ay <-].
+by rewrite ler_wpM2l //; apply ub.
+Qed.
+
+Lemma gt0_has_supZl (A : set R) (a : R) : 0 < a -> has_sup [set a * x  | x in A ] -> has_sup A.
```
Comment (mkerjean) [inline reals/reals.v]:
```coq
Lemma gt0_has_supZl (A : set R) (a : R) :
  0 < a -> has_sup [set a * x  | x in A ] -> has_sup A. 
Proof.
move=> a0 [[_ [x Ax _]] [b ub]]; split; first by exists x.
by exists (b/a) => y Ay; rewrite ler_pdivlMr // mulrC; apply: ub; exists y.
Qed.

```

**Review by affeldt-aist — APPROVED** [review]
Thanks! These lemmas are definitely useful. I have incorporated your comment about `sup_ge0` into the script because it looks like a question that will easily spring to mind.

**Comment by affeldt-aist** [comment]
I did some proof compression as @mkerjean suggested, so maybe we can merge.
